US08470820B2
A-5: 6-Cyclopropyl-3-(pyrimidin-5-ylamino)-pyridine-2-carboxylic acid
A suspension of 6-cyclopropyl-3-(pyrimidin-5-ylamino)-pyridine-2-carboxylic acid ethyl ester (1.85 g, 6.5 mmol) from example A-2 in EtOH (15 ml) was treated with 1N NaOH (13 ml). The reaction mixture was stirred at r.t. overnight. The compact suspension was brought to pH 6 by addition of 1N HCl. The solid was collected by filtration, washed with EtOH and dried to give the product (1.29 g, 77%) as off-white solid.

reactant | 6-cyclopropyl-3-(pyrimidin-5-ylamino)-pyridine-2-carboxylic acid ethyl ester | 6.5 mmol, 1.85 g | C(C)OC(=O)C1=NC(=CC=C1NC=1C=NC=NC1)C1CC1 | C15H16N4O2
reactant | NaOH | 1N, 13 ml | [OH-].[Na+]
reactant | HCl | 1N | Cl | ClH
solvent | EtOH | 15 ml | CCO | C2H6O
product | 6-Cyclopropyl-3-(pyrimidin-5-ylamino)-pyridine-2-carboxylic acid | 1.29 g, 77% | C1(CC1)C1=CC=C(C(=N1)C(=O)O)NC=1C=NC=NC1 | C13H12N4O2
